US09416111B2
5-Chloro-2-iodopyrimidine (4 g, 16.64 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.92 g, 1.66 mmol) were suspended in THF (83 mL). 3-Ethoxy-3-oxopropylzinc bromide (33.3 mL, 16.64 mmol) was added, and the resultant mixture was stirred at room temperature for 18 hours. The mixture was diluted with saturated ammonium chloride and water (1:1) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (EtOAc:Hexanes) to give ethyl 3-(5-chloropyrimidin-2-yl)propanoate. MS ESI calcd for C9H12ClN2O2[M+H]+ 215. found 215. 1H NMR (500 MHz, DMSO-d6) δ 8.82 (s, 2H), 4.00 (q, J=7.1 Hz, 2H), 3.13 (t, J=6.9 Hz, 2H), 2.78 (t, J=6.9 Hz, 2H), 1.11 (t, J=7.1 Hz, 3H).

reactant | 5-Chloro-2-iodopyrimidine | 16.64 mmol, 4 g | ClC=1C=NC(=NC1)I | C4H2ClIN2
reactant | 3-Ethoxy-3-oxopropylzinc bromide | 16.64 mmol, 33.3 mL | [Br-].C(C)OC(CC[Zn+])=O
solvent | THF | 83 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.66 mmol, 1.92 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 3-(5-chloropyrimidin-2-yl)propanoate | ClC=1C=NC(=NC1)CCC(=O)OCC | C9H11ClN2O2
